US08431605B2
b) 2-Pyridin-3-yl-butyric acid
A mixture of 2-Pyridin-3-yl-butyric acid ethyl ester (8 g, 0.04 mol) and a 20% aqueous solution of hydrochloric acid (50 mL) was heated to reflux for 3 hours. The solvent evaporated to dryness to yield the desired product (5 g, 0.02 mol, 50%), ESI-MS m/z calc. 165.1. found 166.5 (M+1)+ 1H NMR (DMSO-d6): δ 8.86 (s, 1H), 8.80 (d, 1H, J=5.6 Hz), 8.47 (d, 1H, J=8.0 Hz), 7.97 (dd, 1H, J=5.6, 8.0 Hz), 3.83 (t, 1H, J=8.0 Hz), 2.07-2.04 (m, 1H), 1.82-1.80 (m, 1H), 0.80 (t, 3H, J=7.6 Hz).

reactant | 2-Pyridin-3-yl-butyric acid ethyl ester | 0.04 mol, 8 g | C(C)OC(C(CC)C=1C=NC=CC1)=O | C11H15NO2
solvent | hydrochloric acid | 50 mL | Cl | ClH
product | 2-Pyridin-3-yl-butyric acid | 0.02 mol, 5 g, 50% | N1=CC(=CC=C1)C(C(=O)O)CC | C9H11NO2
